US04758586
5-(1-Benzyl-5-Benzyloxyindol-3-yl)-2,4-Pentadienoic Acid
In a manner similar to Example 2, 1 g (2.4 mmol) of ethyl 5-(benzyl-5-benzyloxyindol-3-yl)-2,4-pentadienoate was treated with 0.5 g (8.6 mmol) of potassium hydroxide in ethanol-water to give, after powders, m.p. 202-203. MS(EI): 365 (M+--CO2), 274 (M+--CO2 --CH2C6H5); NMR (DMSO-d6): δ5.14 (s, 2), δ5.36 (s, 2), δ5.89 (d, J=15 Hz, 1).

reactant | ethyl 5-(benzyl-5-benzyloxyindol-3-yl)-2,4-pentadienoate | 2.4 mmol, 1 g | C(C1=CC=CC=C1)C=1NC2=CC=C(C=C2C1C=CC=CC(=O)OCC)OCC1=CC=CC=C1 | C29H27NO3
reactant | potassium hydroxide | 8.6 mmol, 0.5 g | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 5-(1-Benzyl-5-Benzyloxyindol-3-yl)-2,4-Pentadienoic Acid | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC=CC(=O)O | C27H23NO3
